US04948810
5.83 g of magnesium are suspended in 100 ml of dry tetrahydrofuran, and 5 drops of 1,2-dibromoethane are added thereto. After the mixture is stirred at room temperature, a solution of 28.3 g of phenyl iodide in 70 ml of tetrahydrofuran is added dropwise thereto. A solution of 7.65 g of 2-benzenesulfonylamino-1-(4-benzyloxyphenyl)ethanone in 100 ml of tetrahydrofuran is added dropwise to the reaction mixture under ice-cooling and stirring. The mixture is stirred at room temperature, and an aqueous ammonium chloride solution is added thereto. The mixture is extracted with ethyl acetate, and the extract is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel flash column chromatography (solvent; chloroform), and recrystallized from a mixture of ethyl acetate and n-hexane. 5.37 g of 2-benzenesulfonylamino-1-(4-benzyloxyphenyl)-1-phenylethanol are obtained as colorless crystals. m.p. 147.5°-149° C.

reactant | magnesium | 5.83 g | [Mg] | Mg
reactant | phenyl iodide | 28.3 g | C1(=CC=CC=C1)I | C6H5I
reactant | 2-benzenesulfonylamino-1-(4-benzyloxyphenyl)ethanone | 7.65 g | C1(=CC=CC=C1)S(=O)(=O)NCC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H19NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | 5 drops | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-benzenesulfonylamino-1-(4-benzyloxyphenyl)-1-phenylethanol | 5.37 g | C1(=CC=CC=C1)S(=O)(=O)NCC(O)(C1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C27H25NO4S
